US07064215B2
Synthesis of 5-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-2-nitro-phenylamine
The title compound was synthesized as described in Method 10, Step 2 from 1,4-dioxa-8-aza-spiro[4.5]decane and 5-fluoro-2-nitrophenylamine. LC/MS (m/z) 280.3 (MH+), Rt 2.41 minutes.

reactant | 1,4-dioxa-8-aza-spiro[4.5]decane | O1CCOC12CCNCC2 | C7H13NO2
reactant | 5-fluoro-2-nitrophenylamine | FC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5FN2O2
product | 5-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-2-nitro-phenylamine | O1CCOC12CCN(CC2)C=2C=CC(=C(C2)N)[N+](=O)[O-] | C13H17N3O4
